US04447260
To a solution of 3-fluoro-4-difluoromethoxyaniline (1.8 g) in methylene chloride (50 ml), triethylamine (1.1 g) was added, and a solution of 1-methylcyclopropanecarbonyl chloride (1.2 g) in methylene chloride was dropwise added thereto while stirring and ice-cooling. After stirring at room temperature for 1 hour, the reaction mixture was admixed with water and extracted with ether. The extract was washed with 1 N hydrochloric acid, sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The oily residue (2.5 g) was chromatographed on silica gel and eluted with a mixture of hexane and acetone to give N-(4-difluoromethoxy-3-fluorophenyl)-1-methylcyclopropanecarboxamide (2.2 g). nD24 1.5061.

reactant | 3-fluoro-4-difluoromethoxyaniline | 1.8 g | FC=1C=C(N)C=CC1OC(F)F | C7H6F3NO
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-methylcyclopropanecarbonyl chloride | 1.2 g | CC1(CC1)C(=O)Cl | C5H7ClO
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-difluoromethoxy-3-fluorophenyl)-1-methylcyclopropanecarboxamide | 2.2 g | FC(OC1=C(C=C(C=C1)NC(=O)C1(CC1)C)F)F | C12H12F3NO2
